US07960394B2
(2) Production of 2-(4-methoxyphenyl)-3,8-dimethyl-4(3H)-quinazolinone:
2-Amino-N,3-dimethylbenzamide (4.10 g, 25.0 mmol), sodium hydrogensulfite (2.93 g, 27.5 mmol) and para-anisaldehyde (3.4 g, 25 mmol) were mixed in N,N′-dimethylacetamide (20 ml), stirred at 150° C. for 5 hours, then cooled to room temperature, and distilled water (100 ml) was added thereto and stirred at that temperature for 1 hour. The precipitated solid was taken out through filtration, dried, and recrystallized from hot ethanol to obtain the intended compound (3.42 g, 49%) as a white solid.

reactant | 2-Amino-N,3-dimethylbenzamide | 25.0 mmol, 4.10 g | NC1=C(C(=O)NC)C=CC=C1C | C9H12N2O
reactant | sodium hydrogensulfite | 27.5 mmol, 2.93 g | S(=O)(O)[O-].[Na+]
reactant | para-anisaldehyde | 25 mmol, 3.4 g | C(C1=CC=C(C=C1)OC)=O | C8H8O2
product | 2-(4-methoxyphenyl)-3,8-dimethyl-4(3H)-quinazolinone | 3.42 g, 49% | COC1=CC=C(C=C1)C1=NC2=C(C=CC=C2C(N1C)=O)C | C17H16N2O2
